US07291619B2
1-(2-Methoxy-5-nitro-phenyl]piperazine was prepared in a manner similar to Preparation 1A except that piperazine was coupled to 2-bromo-1-methoxy-4-nitro-benzene. LRMS (ESI+): 238.4 (M+1)

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 2-bromo-1-methoxy-4-nitro-benzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
product | 1-(2-Methoxy-5-nitro-phenyl]piperazine | COC1=C(C=C(C=C1)[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
